US04444981
Ethyl 3-oxo-5-[3-chlorophenyl]pentanoate
Ethyl acetoacetate (78.6 g, 0.6 mole) was added to a slurry of sodium hydride (20.8 g of 75% dispersion in oil, 0.65 mole) in dry THF at 0° C. under nitrogen followed by addition of n-butyl lithium (390 ml, 1.6 M in hexane, 0.63 mole) by the method given in Description 1(a). 3-Chlorobenzyl chloride (100 g, 0.62 mole) was added and after work-up and purification by vacuum distillation the required product was obtained as a very pale yellowish green oil (97.3 g, 64%), δ(CDCl3) 7.3-6.9 (4H, m), 4.18 (2H, q, J=7 Hz), 3.42 (2H, s), 2.88 (4H, s), and 1.27 (3H, t, J=7 Hz).

reactant | Ethyl acetoacetate | 0.6 mole, 78.6 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium hydride | 0.65 mole, 20.8 g | [H-].[Na+]
reactant | n-butyl lithium | 0.63 mole, 1.6 M, 390 ml | C(CCC)[Li]
reactant | 3-Chlorobenzyl chloride | 0.62 mole, 100 g | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl 3-oxo-5-[3-chlorophenyl]pentanoate | 97.3 g, 64% | O=C(CC(=O)OCC)CCC1=CC(=CC=C1)Cl | C13H15ClO3
